US04621901
A mixture of 23.5 of p-[2-(4-methoxymethylenecyclohexyl)ethyl]benzonitrile and 300 ml of tetrahydrofuran/2N hydrochloric acid (vol. 4:1) was boiled at reflux while gassing with nitrogen for 30 minutes. The cooled reaction mixture was poured into 450 ml of water and extracted three times with 300 ml of diethyl ether each time. The organic phases were washed with 200 ml of water, dried over sodium sulphate and concentrated in vacuo at 50° C. There were obtained 21.9 g of 4-[2-(p-cyanophenyl)ethyl]cyclohexanecarboxaldehyde (trans/cis=4:1) as a colourless oil; Rf-value (methylene chloride) 0.3.

reactant | p-[2-(4-methoxymethylenecyclohexyl)ethyl]benzonitrile | COC=C1CCC(CC1)CCC1=CC=C(C#N)C=C1 | C17H21NO
reactant | tetrahydrofuran | 2N, 300 ml | O1CCCC1 | C4H8O
solvent | water | 450 ml | O | H2O
product | 4-[2-(p-cyanophenyl)ethyl]cyclohexanecarboxaldehyde | 21.9 g | C(#N)C1=CC=C(C=C1)CCC1CCC(CC1)C=O | C16H19NO
